US06864287B1
XXIII: Methyl 6-(2-cyanobenzyl)-7-oxoheptanoate
At −60° C., a solution of 49.37 mg (0.63 mmol) of dimethyl sulfoxide (DMSO) in 0.5 ml of dichloromethane was added dropwise to a solution of 40.10 mg (0.32 mmol) of oxalyl chloride in 2 ml of dichloromethane. The mixture was stirred at −60° C. for 15 min, and a solution of 58.00 mg (0.21 mmol) of methyl &(2-cyanobenzyl)-7-hydroxyheptanoate from Ex. XXIIId in 1 ml of dichloromethane was then added dropwise. The mixture was stirred at −60° C. for another 15 min, 106.58 mg (1.05 mmol) of triethylamine were added, the cooling bath was removed and the mixture was stirred for 2 h. Water was added, the mixture was extracted with dichloromethane, the combined organic phases were dried over Na2SO4, the solvent was removed and the crude product was dried under high vacuum. The resulting aldehyde could be used without further purification.

reactant | dimethyl sulfoxide | 0.63 mmol, 49.37 mg | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.32 mmol, 40.10 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2-cyanobenzyl)-7-hydroxyheptanoate | C(#N)C1=C(COC(CCCCCCO)=O)C=CC=C1 | C15H19NO3
reactant | triethylamine | 1.05 mmol, 106.58 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | Methyl 6-(2-cyanobenzyl)-7-oxoheptanoate | C(#N)C1=C(CC(CCCCC(=O)OC)C=O)C=CC=C1 | C16H19NO3
